US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-{2-[(2-diethylamino-ethyl)-methyl-amino]-pyrimidin-4-yl}-benzamide.
Using 2-(diethylamino)-ethyl-methyl-amine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates.

reactant | 2-(diethylamino)-ethyl-methyl-amine | C(C)N(CCNC)CC | C7H18N2
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-{2-[(2-diethylamino-ethyl)-methyl-amino]-pyrimidin-4-yl}-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)N(C)CCN(CC)CC)=O | C29H33N7O
